US07163936B2
To a solution of 1-allyl 3-methyl (2R)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (234 mg, 0.97 mmol) in DMF (4.7 ml) was added at 0° C. sodium hydride (60% suspension in oil, 39 mg, 0.98 mmol) and the mixture was stirred for 30 minutes. Then thereto was added at 0° C. methyl iodide (0.95 ml, 9.7 mmol) and the mixture was stirred at room temperature for 1 hour. After cooled to 0° C., the reaction mixture was poured into ice water and extracted three times with ethyl acetate. The organic layer was washed with water and then a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified with silica gel chromatography to give 1-allyl 3-methyl (2R)-2-(methoxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (55 mg, 15%).

reactant | 1-allyl 3-methyl (2R)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 0.97 mmol, 234 mg | OC[C@@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C11H15NO5
reactant | sodium hydride | 0.98 mmol, 39 mg | [H-].[Na+]
reactant | methyl iodide | 9.7 mmol, 0.95 ml | CI | CH3I
solvent | DMF | 4.7 ml | CN(C)C=O | C3H7NO
product | 1-allyl 3-methyl (2R)-2-(methoxymethyl)-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 55 mg, 15% | COC[C@@H]1N(CC=C1C(=O)OC)C(=O)OCC=C | C12H17NO5
